US08871756B2
(2S)-2-Amino-3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propan-1-ol
A mixture of tert-butyl 4-({[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}methyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (251 mg) and a solution of hydrochloride in ethyl acetate (13 mL, 4 N) was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo. The residue was dissolved in water, and basified with a saturated aqueous solution of sodium bicarbonate to about pH 9, and extracted with ethyl acetate (20 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, concentrated in vacuo. The residue was purified by preparative HPLC to give 74.6 mg of the desired product as a white solid. MS obsd. (ESI+) [(M+H)+] 427, 1H NMR (400 MHz, CD3OD) δ ppm 8.04 (dd, J=1.2, 8.0 Hz, 1 H), 7.98 (d, J=7.2 Hz, 1 H), 7.86 (s, 1 H), 7.72-7.66 (m, 2 H), 7.55-7.46 (m, 2 H), 6.20 (s, 1 H), 5.31 (s, 2 H), 4.57 (s, 2 H), 3.93-3.62 (m, 7 H), 2.47 (s, 3 H).

reactant | tert-butyl 4-({[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}methyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 251 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCC2N(C(OC2)(C)C)C(=O)OC(C)(C)C)C)=O | C30H38N4O5S
reactant | hydrochloride | Cl | ClH
solvent | ethyl acetate | 4 N, 13 mL | C(C)(=O)OCC | C4H8O2
product | (2S)-2-Amino-3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propan-1-ol | 74.6 mg | N[C@H](CO)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C22H26N4O3S
